US06429207B1
Using the method of Dodd (Synthesis, 1993, 295-297), a solution of 6-fluoroquinoxaline-2-carboxaldehyde (71 mg, 0.4 mmol) in formic acid (2 mL) was cooled in an ice bath and treated with hydrogen peroxide (2 mL of 30%). The reaction was stirred in the ice bath for 3 hours. After this time the reaction mixture was diluted with 10% HCl (25 mL) and extracted with dichloromethane (4×25 mL). The combined organic extracts were dried over anhydrous MgSO4, filtered and concentrated to afford 35 mg (45%) of 6-fluoroquinoxaline-2-carboxylic acid.

reactant | 6-fluoroquinoxaline-2-carboxaldehyde | 0.4 mmol, 71 mg | FC=1C=C2N=CC(=NC2=CC1)C=O | C9H5FN2O
reactant | hydrogen peroxide | 2 mL | OO | H2O2
solvent | formic acid | 2 mL | C(=O)O | CH2O2
solvent | HCl | 25 mL | Cl | ClH
product | 6-fluoroquinoxaline-2-carboxylic acid | 35 mg, 45% | FC=1C=C2N=CC(=NC2=CC1)C(=O)O | C9H5FN2O2
